US07427612B2
[4-(2-Fluoro-phenyl)-piperazin-1-yl]-(2-morpholin-4-yl-5-nitro-phenyl)-methanone
The title compound was prepared according to the procedure described for example 1 from (2-Fluoro-5-nitro-phenyl)-[4-(2-fluoro-phenyl)-piperazin-1-yl]-methanone and morpholine (87%, yellow solid, MS (m/e): 415.2 (M+H, 100%)

reactant | (2-Fluoro-5-nitro-phenyl)-[4-(2-fluoro-phenyl)-piperazin-1-yl]-methanone | FC1=C(C=C(C=C1)[N+](=O)[O-])C(=O)N1CCN(CC1)C1=C(C=CC=C1)F | C17H15F2N3O3
reactant | morpholine | N1CCOCC1 | C4H9NO
product | [4-(2-Fluoro-phenyl)-piperazin-1-yl]-(2-morpholin-4-yl-5-nitro-phenyl)-methanone | FC1=C(C=CC=C1)N1CCN(CC1)C(=O)C1=C(C=CC(=C1)[N+](=O)[O-])N1CCOCC1 | C21H23FN4O4
